US05998433
e) Synthesis of methyl 6-(6-phenylhexanoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate
To a solution of 95 mg (0.52 mmol) of methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate, 0.12 g (0.63 mmol) of 6-phenylhexanoic acid and 0.15 ml (1.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.10 ml (0.63 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 2/1) to yield the desired product.

reactant | methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | 0.52 mmol, 95 mg | O1C(=CC2=C1CNCC2)C(=O)OC | C9H11NO3
reactant | 6-phenylhexanoic acid | 0.63 mmol, 0.12 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | triethylamine | 1.0 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.63 mmol, 0.10 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl 6-(6-phenylhexanoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | C1(=CC=CC=C1)CCCCCC(=O)N1CC2=C(CC1)C=C(O2)C(=O)OC | C21H25NO4
